US08084481B2
2-(4-chlorobenzoyl)-N-cyclopropylhydrazinecarboxamide
Under an argon atmosphere, 4.00 g (23.4 mmol) of 4-chlorobenzoic acid hydrazide are placed in 50 ml tetrahydrofuran. 1.95 g (23.4 mmol) of cyclopropyl isocyanate, dissolved in 50 ml tetrahydrofuran, are added dropwise at 50° C., and the mixture further stirred overnight at 50° C. The solvent is evaporated in vacuo, diethyl ether is added to the residue and the solid formed is isolated and purified by filtration and further washing with diethyl ether. 5.92 g (ca. 100% of theory) of the target compound are thus obtained.

reactant | 4-chlorobenzoic acid hydrazide | 23.4 mmol, 4.00 g | ClC1=CC=C(C(=O)NN)C=C1 | C7H7ClN2O
reactant | cyclopropyl isocyanate | 23.4 mmol, 1.95 g | C1(CC1)N=C=O | C4H5NO
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-(4-chlorobenzoyl)-N-cyclopropylhydrazinecarboxamide | ClC1=CC=C(C(=O)NNC(=O)NC2CC2)C=C1 | C11H12ClN3O2
